US04689339
2-Bromo-1-(2-bromo-2,3-dihydro-1-methyl-1H-inden-2-yl)ethanone
Bromine in methylene chloride is slowly added to a stirred solution of cis-1-(2,3-dihydro-1-methyl-1H-inden-2-yl)ethanone (34.8 g) in methylene chloride (835 ml), while keeping the temperature at +10° C. The reaction is followed by GLC. The first products are the isomers of 1-(2-bromo-2,3-dihydro-1-methyl-1H-inden-2-yl)ethanone and cis-2-bromo-1-(2,3-dihydro-1-methyl-1H-inden-2-yl)ethanone. When the added amount of bromine is about 0.3 mol, only the final product, 2-bromo-1-(2-bromo-2,3-dihydrol-methyl-1H-inden-2-yl)ethanone is visible in the chromatogram and the mono bromo products cannot be seen in the chromatogram any more. The methylene chloride solution is washed with water, then several times with the diluted NaHCO3 solution and finally with water. The solvent is dried with Na2SO4 and evaporated to dryness.

reactant | Bromine | BrBr | Br2
reactant | cis-1-(2,3-dihydro-1-methyl-1H-inden-2-yl)ethanone | 34.8 g | C[C@H]1[C@H](CC2=CC=CC=C12)C(C)=O | C12H14O
reactant | 1-(2-bromo-2,3-dihydro-1-methyl-1H-inden-2-yl)ethanone | BrC1(C(C2=CC=CC=C2C1)C)C(C)=O | C12H13BrO
reactant | cis-2-bromo-1-(2,3-dihydro-1-methyl-1H-inden-2-yl)ethanone | BrCC(=O)[C@@H]1[C@@H](C2=CC=CC=C2C1)C | C12H13BrO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 835 ml | C(Cl)Cl | CH2Cl2
product | 2-Bromo-1-(2-bromo-2,3-dihydro-1-methyl-1H-inden-2-yl)ethanone | BrCC(=O)C1(C(C2=CC=CC=C2C1)C)Br | C12H12Br2O
